US04876352
Hexafluoropropylene (260 g; 1.73 mole) is bubbled into a solution of 287 ml (200 g; 2.74 mole) of diethylamine and 400 mL of methylene chloride over approximately 2 hours, keeping an internal temperature of about 10° with use of an ice bath. The reaction mixture is then stirred at room temperature for 18 hours. Low boiling compounds are removed by distillation at 70-80 mm and the product is distilled at 27°-32° C. and 8-10 mm, producing 238 ml (293 g; 1.31 mole) of N-(1,1,2,3,3,3-hexafluoropropyl)diethylamine.

reactant | Hexafluoropropylene | 1.73 mole, 260 g | FC(C(=C(F)F)F)(F)F | C3F6
reactant | diethylamine | 2.74 mole, 287 ml, 200 g | C(C)NCC | C4H11N
solvent | methylene chloride | 400 mL | C(Cl)Cl | CH2Cl2
product | N-(1,1,2,3,3,3-hexafluoropropyl)diethylamine | 1.31 mole, 238 ml, 293 g | FC(C(C(F)(F)F)F)(F)N(CC)CC | C7H11F6N
